US04970022
2-(4-Aminophenyl)-5-pentylpyrimidine (prepared from 4-aminophenylamidine and 2-pentylpropane-1,3-diol) is reacted with thiophosgene as described in Example 3, affording 2-(4-isothiocyanatophenyl)-5-pentylpyrimidine; m.p. 46°, c.p. 85.5°.

reactant | 2-(4-Aminophenyl)-5-pentylpyrimidine | NC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCC | C15H19N3
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
product | 2-(4-isothiocyanatophenyl)-5-pentylpyrimidine | N(=C=S)C1=CC=C(C=C1)C1=NC=C(C=N1)CCCCC | C16H17N3S
